US08895545B2
c) 3-(5,7,8,9-Tetrahydro-6-oxa-1,9-diaza-benzocyclohepten-3-yl)-acrylic acid hydrochloride
A suspension of 3-(5,7,8,9-Tetrahydro-6-oxa-1,9-diaza-benzocyclohepten-3-yl)-acrylic acid tert-butyl ester (0.14 g, 0.49 mmol) in CH2Cl2 (5 mL) was treated with TFA (5 ml). After stirring at room temperature for 30 min, the clear tan solution was concentrated in vacuo. The resulting oil was triturated with hexanes (20 mL) until the oil was converted to a fine off-white solid. The solid was then suspended in anhydrous HCl in dioxane (2 mL, 4.0 M), sonicated and concentrated to about 1 mL. The suspension was treated with Et2O (20 mL), sonicated, isolated by filtration and dried under vacuum. Yield: 0.11 g (87%); 1H NMR (300 MHz, DMSO-d6) δ8.40 (br s, 3H), 8.31-8.29 (m, 2H), 7.53 (d, J=16.0 Hz, 1H), 6.51 (d, J=16.0 Hz, 1H), 4.76 (s, 2H), 3.96-3.92 (m, 2H), 3.71-3.67 (m, 2H); ESI MS m/z 221 [C11H12N2O3+H]+

reactant | 3-(5,7,8,9-Tetrahydro-6-oxa-1,9-diaza-benzocyclohepten-3-yl)-acrylic acid tert-butyl ester | 0.49 mmol, 0.14 g | C(C)(C)(C)OC(C=CC1=CC2=C(NCCOC2)N=C1)=O | C15H20N2O3
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(5,7,8,9-Tetrahydro-6-oxa-1,9-diaza-benzocyclohepten-3-yl)-acrylic acid hydrochloride | Cl.N1=CC(=CC2=C1NCCOC2)C=CC(=O)O | InChI=1S/C11H12N2O3.ClH/c14-10(15)2-1-8-5-9-7-16-4-3-12-11(9)13-6-8;/h1-2,5-6H,3-4,7H2,(H,12,13)(H,14,15);1H
